US08404722B2
Preparation of 4-nitro-N-(pyridin-4-ylmethyl)benzamide (34a):
to a solution of 4-(aminomethyl)pyridine (12.9 ml, 127 mmol) and pyridine (51.4 ml, 636 mmol) in 150 mL dichloromethane cooled by an ice bath was added 4-nitrobenzoyl chloride (24.8 g, 133 mmol) all at once, generating a dark red reaction solution. LC-MS at 5 minutes indicated reaction complete and the desired product predominated. The reaction was stirred at room temperature overnight then the solid collected by filtration. LC-MS indicated that the filtrate was desired product. The solid was washed with 5% aqueous sodium hydroxide solution until aqueous layer was alkaline then the solid collected by filtration. The solid was dried overnight in a vacuum dessicator over P2O5 (28.4 g, 87%). ESI+ m/z=258.1 [MH]+.

reactant | 4-(aminomethyl)pyridine | 127 mmol, 12.9 ml | NCC1=CC=NC=C1 | C6H8N2
reactant | pyridine | 636 mmol, 51.4 ml | N1=CC=CC=C1 | C5H5N
reactant | 4-nitrobenzoyl chloride | 133 mmol, 24.8 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 4-nitro-N-(pyridin-4-ylmethyl)benzamide | [N+](=O)([O-])C1=CC=C(C(=O)NCC2=CC=NC=C2)C=C1 | C13H11N3O3
